US06589950B1
a. N-acetyl-N-ethyl-4nitroaniline
To a suspension of N-ethyl 4-nitroaniline (1.5 g, 9.026 mmol) in benzene (15 ml), is added acetylchloride (10 ml) and the mixture refluxed for 40 minutes. The solvent is removed by evaporation. The residue is dissolved in ethyl acetate prior to washing with 2N sodium bicarbonate and water, drying (MgSO4) and evaporation. The product is dried under vacuum; ES+ (M+1) 208.57.

reactant | N-ethyl 4-nitroaniline | 9.026 mmol, 1.5 g | C(C)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O2
reactant | acetylchloride | 10 ml | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | N-acetyl-N-ethyl-4nitroaniline | C(C)(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])CC | C10H12N2O3
